US07345180B2
Hydroxybenzotriazole (3.55 g) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (4.45 g) were added to a solution of 1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid (4.00 g) in N,N-dimethylformamide (40 ml) with ice cooling. The mixture was stirred for 30 minutes at room temperature, and then t-butyl (2-aminoethyl)carbamate (3.65 ml) was added thereto and stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and water were added to the residue. The organic phase was washed with 10% citric acid solution, 4% sodium bicarbonate solution and a saturated saline solution. The product was dried under sodium sulfate anhydrous and concentrated under reduced pressure to give t-butyl {2-[(1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonyl)amino]ethyl}carbamate (4.02 g, Y.:57%) as colorless crystals.

reactant | Hydroxybenzotriazole | 3.55 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.45 g | Cl.CN(CCCN=C=NCC)C
reactant | 1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 4.00 g | CN1N=C(C=2C1=NC=C(C2)C(=O)O)C | C9H9N3O2
reactant | t-butyl (2-aminoethyl)carbamate | 3.65 ml | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | t-butyl {2-[(1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbonyl)amino]ethyl}carbamate | 4.02 g, 57% | CN1N=C(C=2C1=NC=C(C2)C(=O)NCCNC(OC(C)(C)C)=O)C | C16H23N5O3
